US06323240B1
2-hydroxy-3-methyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid (PNU 161244)
To a solution of 1-(3,4-dichlorophenyl)propanone (5.8 g, 28.5 mmol)in 95% ethanol (100 mL) a solution of glyoxylic acid monohydrate (2.63 g, 28.5 mmol) in water (20 mL) was added at 0° C., followed by dropwise addition of a solution of sodium hydroxide (4.6 g, 0.114 mol). The temperature during the addition was maintained below +5° C. on cooling. The resulting reaction mixture was stirred at 0° C. over 3 hours, then allowed to warm to room temperature and stirred further 12 hours. The most of ethanol was then removed under reduced pressure (15° C.), the residue was diluted with water and the pH of the obtained suspension adjusted to 2 by addition of 37% HCl, on stirring and cooling at 0° C. The aqueous phase was extracted with ethyl acetate, and the collected organic extracts were washed with brine, dried and evaporated to provide the crude reaction product as a light yellow oil (4.4 g). Column chromatography (SiO2; CH2Cl2/MeOH 95:5) provided the pure titled compound (2.1 g, 27%), colorless solid (Ethyl ether/hexane) mp. 103-104° C.;

reactant | 1-(3,4-dichlorophenyl)propanone | 28.5 mmol, 5.8 g | ClC=1C=C(C=CC1Cl)CC(C)=O | C9H8Cl2O
reactant | glyoxylic acid monohydrate | 28.5 mmol, 2.63 g | O.C(C=O)(=O)O
reactant | sodium hydroxide | 0.114 mol, 4.6 g | [OH-].[Na+]
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
solvent | Ethyl ether hexane | C(C)OCC.CCCCCC
product | 2-hydroxy-3-methyl-4-oxo-4-(3′,4′-dichlorophenyl)butanoic acid | 2.1 g, 27% | OC(C(=O)O)C(C(C1=CC(=C(C=C1)Cl)Cl)=O)C | C11H10Cl2O4
